US07557213B2
Experimental conditions analogous to those described for Step 1 of Example 1 were used with 0.50 g (2.01 mmol) 2-(3,4-Dimethyl-benzoyl)-3-methoxy-acrylic acid methyl ester, 0.22 g (2.01 mmol) of 4-Methyl-pyridin-3-ylamine, and 30 mL of diphenyl ether to yield 94.4 mg of 3-(3,4-Dimethyl-benzoyl)-8-methyl-1H-[1,5]naphthyridin-4-one as a brown solid.

reactant | 2-(3,4-Dimethyl-benzoyl)-3-methoxy-acrylic acid methyl ester | 2.01 mmol, 0.50 g | COC(C(=COC)C(C1=CC(=C(C=C1)C)C)=O)=O | C14H16O4
reactant | 4-Methyl-pyridin-3-ylamine | 2.01 mmol, 0.22 g | CC1=C(C=NC=C1)N | C6H8N2
solvent | diphenyl ether | 30 mL | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 3-(3,4-Dimethyl-benzoyl)-8-methyl-1H-[1,5]naphthyridin-4-one | 94.4 mg | CC=1C=C(C(=O)C2=CNC3=C(C=CN=C3C2=O)C)C=CC1C | C18H16N2O2
